* Declared idealoutsideequipotential target pieces; othercontexts ground.
C4 0 P 4.3813300000000001e-17
C8 0 P 3.5668800000000002e-17
C12 0 P 1.1441900000000002e-15
C15 0 P 4.8187000000000004e-17
C17 0 P 2.7820400000000003e-17
C19 P 0 4.5108200000000006e-16
VP P 0 DC 0 AC 1
.control
set numdgt=17
ac lin 1 1Meg 1Meg
let ceff = -imag(i(VP))/(2*pi*1e6)
print ceff
echo LOCAL_CAP_AC_END
quit
.endc
.end
